* Frozen netlist snapshot for record 20260731-195006-5f5288b
* source     : sim/device-switch-charge-injection/testbench/tb_switch_chinj.spice
* sha256     : 7e99b2dfe2a13ce0391f07468b9629c25abb77739ccb8c4e2a6fa76199cf389b
* This is a verbatim copy taken at record time. Do not edit.
* tb_switch_chinj -- sampling-switch charge injection and clock feedthrough
*
* Netlist FRAGMENT. The harness supplies the models, the corner .lib
* sections, .temp, the .control block and .end. Parameters provided by the
* harness: vdd_val, vdd_nom, temp_c.
*
* Question this answers (feeds #10, and the offset/INL budget in #8): when the
* sampling switch opens, how much does the held voltage jump, and how much
* does that jump vary with the input level? A constant pedestal is an offset
* and is harmless; the INPUT-DEPENDENT part of it is signal-dependent error
* and shows up directly as distortion and INL.
*
* METHOD. Each branch samples a fixed input onto a hold capacitor, then the
* clock falls. The pedestal is measured as
*
*     V(hold, after the edge has fully settled) - V(hold, just before it)
*
* Taking the difference across the edge -- rather than comparing the final
* held value against the input -- deliberately removes any incomplete
* tracking during the on-phase from the number. What is left is charge
* injection plus clock feedthrough, which is what #10 needs.
*
* Charge injection and clock feedthrough are not separable by measuring one
* node, so branch 5 isolates the feedthrough: it holds the input AT vdd, so
* the NMOS never turns on (Vgs = 0 at the top of the clock) and no channel
* charge ever exists. Whatever pedestal that branch shows is pure capacitive
* clock feedthrough through the gate-source/gate-drain overlap. The difference
* between branch 5 and the conducting branches is the channel-charge term.
*
* TIMING. Clock rises at t = 0 (1 ns edge), holds on until t = 1 us, falls
* over 1 ns, and the sample is read at t = 1.5 us. 1 us of tracking is ~8 time
* constants even at the worst-corner R_on measured in sim/device-switch-ron/,
* and 500 ns of settling after the edge is far longer than any pedestal
* transient. The 1 ns edge is the load-bearing assumption: charge injection
* splits between source and drain in a ratio that depends on how fast the
* channel collapses relative to how fast charge can escape to the driven
* side, so a different clock slope gives a different pedestal. 1 ns is a
* plausible internal SAR clock edge for a 1 MS/s converter; #10 should re-run
* this with its own edge rate before committing.
*
* HOLD CAPACITOR. 2.5 pF, the array size the prior-art survey (spec/) derives
* for a monotonic / V_cm-based 10-bit CDAC at C_u = 5 fF. Branch 6 repeats one
* point at 250 fF to show the 1/C_hold scaling explicitly rather than
* asserting it.
*
* Device sizing matches sim/device-switch-ron/: NMOS W = 10 um, PMOS W = 20 um,
* both L = 0.28 um. Injected charge scales with W*L, so the pedestal scales
* with W at fixed C_hold.

vsup vdd 0 dc {vdd_val}

* ---- sampling clock and its complement -----------------------------------
vclk  nclk  0 pulse(0 {vdd_val} 0 1n 1n 1u 10u)
vclkb nclkb 0 pulse({vdd_val} 0 0 1n 1n 1u 10u)

* ---- input ladder --------------------------------------------------------
vin_f00 nin_f00 0 dc 0
vin_f25 nin_f25 0 dc {vdd_val/4}
vin_f50 nin_f50 0 dc {vdd_val/2}
vin_f75 nin_f75 0 dc {3*vdd_val/4}
vin_f100 nin_f100 0 dc {vdd_val}

* ===========================================================================
* 1-4. NMOS-only switch onto a 2.5 pF hold cap, four input levels.
Chn_f00 nhn_f00 0 2.5p
XCN_f00 nin_f00 nclk nhn_f00 0 nfet_03v3 w=10u l=0.28u

Chn_f25 nhn_f25 0 2.5p
XCN_f25 nin_f25 nclk nhn_f25 0 nfet_03v3 w=10u l=0.28u

Chn_f50 nhn_f50 0 2.5p
XCN_f50 nin_f50 nclk nhn_f50 0 nfet_03v3 w=10u l=0.28u

Chn_f75 nhn_f75 0 2.5p
XCN_f75 nin_f75 nclk nhn_f75 0 nfet_03v3 w=10u l=0.28u

* ===========================================================================
* 5. FEEDTHROUGH ISOLATOR: input at vdd, so Vgs = 0 even at the top of the
*    clock and the channel never forms. Pure gate-overlap coupling.
Chn_ft nhn_ft 0 2.5p
XCN_ft nin_f100 nclk nhn_ft 0 nfet_03v3 w=10u l=0.28u

* ===========================================================================
* 6. 1/C_hold scaling control: same device, same input as branch 3, 250 fF.
Chn_c250 nhn_c250 0 250f
XCN_c250 nin_f50 nclk nhn_c250 0 nfet_03v3 w=10u l=0.28u

* ===========================================================================
* 7-11. Transmission gate onto 2.5 pF, five input levels (a T-gate can pass
*       the top of the range, so f100 is a real operating point here).
Cht_f00 nht_f00 0 2.5p
XCTN_f00 nin_f00 nclk  nht_f00 0   nfet_03v3 w=10u l=0.28u
XCTP_f00 nin_f00 nclkb nht_f00 vdd pfet_03v3 w=20u l=0.28u

Cht_f25 nht_f25 0 2.5p
XCTN_f25 nin_f25 nclk  nht_f25 0   nfet_03v3 w=10u l=0.28u
XCTP_f25 nin_f25 nclkb nht_f25 vdd pfet_03v3 w=20u l=0.28u

Cht_f50 nht_f50 0 2.5p
XCTN_f50 nin_f50 nclk  nht_f50 0   nfet_03v3 w=10u l=0.28u
XCTP_f50 nin_f50 nclkb nht_f50 vdd pfet_03v3 w=20u l=0.28u

Cht_f75 nht_f75 0 2.5p
XCTN_f75 nin_f75 nclk  nht_f75 0   nfet_03v3 w=10u l=0.28u
XCTP_f75 nin_f75 nclkb nht_f75 vdd pfet_03v3 w=20u l=0.28u

Cht_f100 nht_f100 0 2.5p
XCTN_f100 nin_f100 nclk  nht_f100 0   nfet_03v3 w=10u l=0.28u
XCTP_f100 nin_f100 nclkb nht_f100 vdd pfet_03v3 w=20u l=0.28u
